Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]#[C:4],5.17672224312
[H:1][C:2](=[C:3])[C@:8]([C:7]=[C:4]([H:5])[H:6])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]1=[C:3][C:4]([H:5])([H:6])[C:7][C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],-0.4135373693699999
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3],8.40171229493
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:9]#[C:10][H:11].[H:8],1.7248862860099998
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[O:9].[H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][H:10],-0.962461695236
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8]>>[C:6]([H:7])[H:8].[H:1][O:2][C:3][O:4][H:5],5.96623488
[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-6.80274123
[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[C:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1][C:2]#[C:3][O:4],2.77473852661
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[O:9][O:10][H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][O:10][H:11],-2.9351878296
[H:1][C:2]=[C:3]([H:4])[H:5].[O:6][C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11],-0.56935563737
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3][H:4],3.64607749005
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2][O:3][C:4]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:5],2.58923600902
[H:1][C:2]([H:3])[O:4][C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][O:4][C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:3],3.78552744546
[C:3]#[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][O:2]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-6.218218733
[H:1][C:2][O:3][C:4][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:10]([H:11])([H:12])[H:13],2.98983963427
[H:12].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.61942072745
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:7]>>[H:1][C:2]([H:3])([H:4])[O:5][C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.18917517001
[H:1][O:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3],2.9468633036400003
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[C:8]#[C:9]>>[C:1]=[C:2]([H:3])[H:4].[O:5]=[C:6]([H:7])[C:8]#[C:9],-0.14751691984
[H:17].[H:1][C:2]([H:3])[C:4]([H:5])(/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])[C@:4]([H:5])(/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.59789839846
[H:1][C:2]#[C:3][C:4]([H:5])=[C:6]([O:7][H:8])[O:9][H:10]>>[C:2]#[C:3][C:4]([H:5])=[C:6]([O:7][H:8])[O:9][H:10].[H:1],5.44969213861
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.04897541021
[H:1][C:2]([H:3])=[C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:10].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])=[C:9]=[C:11]([H:12])[H:13],2.4402011223599995
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.66125803509
[C:6]=[C:7]([H:8])[H:9].[H:1][C:2]#[C:3][O:4][C:5]>>[H:1][C:2]#[C:3][O:4][C:5]#[C:6][C:7]([H:8])[H:9],-4.96017645362
[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-3.0621736581299994
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],1.46808141139
[C:7]([H:8])([H:9])=[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.31229674251
